US08252781B2
Preparation of 4,4-dimethyl-1-[(E)-2-phenylethenyl]-2-(adamantan-2-yl)-1,2-diazetidin-3-one
A solution of 2-(adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one (50.0 mg, 0.213 mmol) prepared in Process 3 of Example 12 in chloroform (3 mL) was added sequentially with phenylacetaldehyde (25.6 mg, 0.213 mmol), sodium triacetoxyborohydride (67.8 mg, 0.320 mmol) and acetic acid (15.4 mg, 0.256 mmol) at room temperature, and the resultant was stirred at the same temperature for 2 hours. The reaction solution was added with water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, concentrated in vacuo, the obtained residue was purified using Preparatory Thin-Layer chromatography (hexane:ethyl acetate=4:1), and the title compound (3.70 mg, 5.20%) was obtained as a colorless oil.

reactant | 2-(adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | 0.213 mmol, 50.0 mg | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | phenylacetaldehyde | 0.213 mmol, 25.6 mg | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium triacetoxyborohydride | 0.320 mmol, 67.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.256 mmol, 15.4 mg | C(C)(=O)O | C2H4O2
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4,4-dimethyl-1-[(E)-2-phenylethenyl]-2-(adamantan-2-yl)-1,2-diazetidin-3-one | 3.70 mg, 5.20% | CC1(C(N(N1\C=C\C1=CC=CC=C1)C1C2CC3CC(CC1C3)C2)=O)C | C22H28N2O
